US04599207
235.0 g of isopentyl methanephosphonite are heated to 72° C. under nitrogen. 0.5 g of tert.-amyl perpivalate is added to the solution, and 63.9 g of acrolein cyanohydrin acetate, in which 3.6 g of tert.-butyl pereodecanoate are dissolved, are added dropwise, with vigorous stirring at 72° C., within 2.75 hours. After reaction is complete, the mixture is stirred at 72° C. for 5 min, and 154.8 g of isopentyl methanephosphonite are distilled out. (Recovery: 94.8%). 143.8 g of 93.6% pure isopentyl (3-acetoxy-3-cyanopropyl)methylphosphinate (yield=97.9%) are obtained.

reactant | isopentyl methanephosphonite | 235.0 g | CP(OCCC(C)C)[O-]
reactant | acrolein cyanohydrin acetate | 63.9 g | CC(=O)OC(C=C)C#N | C6H7NO2
product | isopentyl (3-acetoxy-3-cyanopropyl)methylphosphinate | 143.8 g, yield=97.9% | C(C)(=O)OC(CCP(OCCC(C)C)(=O)C)C#N | C12H22NO4P
